**************************************************
* Manufacturer:          Würth Elektronik 
* Kinds:                 Aluminum Hybrid Polymer Capacitors
* Matchcode:             WCAP-HTG5
* Library Type:          Pspice
* Version:               rev23a
* Created/modified by:   Ella
* Date and Time:         4/26/2023
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG	
* All Rights Reserved.	
**************************************************	
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy	
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on	
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.	
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.	
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.	
**************************************************
.subckt HTG5_870575373001_120uF 1 2
Rser 1 3 0.0085
Lser 2 4 0.0000000023
C1 3 4 0.00012
Rpar 3 4 833333.333333333
.ends HTG5_870575373001_120uF
*******
.subckt HTG5_870575573001_68uF 1 2
Rser 1 3 0.012
Lser 2 4 0.0000000018
C1 3 4 0.000068
Rpar 3 4 1470588.23529412
.ends HTG5_870575573001_68uF
*******
.subckt HTG5_870575773001_15uF 1 2
Rser 1 3 0.0061
Lser 2 4 0.0000000019
C1 3 4 0.000015
Rpar 3 4 6666666.66666667
.ends HTG5_870575773001_15uF
*******
.subckt HTG5_870575873001_10uF 1 2
Rser 1 3 0.0065
Lser 2 4 0.0000000022
C1 3 4 0.00001
Rpar 3 4 10000000
.ends HTG5_870575873001_10uF
*******
.subckt HTG5_870575574002_150uF 1 2
Rser 1 3 0.007
Lser 2 4 0.0000000016
C1 3 4 0.00015
Rpar 3 4 666666.666666667
.ends HTG5_870575574002_150uF
*******
.subckt HTG5_870575774002_33uF 1 2
Rser 1 3 0.0073
Lser 2 4 0.0000000032
C1 3 4 0.000033
Rpar 3 4 3030303.03030303
.ends HTG5_870575774002_33uF
*******
.subckt HTG5_870575874002_22uF 1 2
Rser 1 3 0.0058
Lser 2 4 0.0000000019
C1 3 4 0.000022
Rpar 3 4 4532374.10071942
.ends HTG5_870575874002_22uF
*******
.subckt HTG5_870575374003_330uF 1 2
Rser 1 3 0.0066
Lser 2 4 0.0000000028
C1 3 4 0.00033
Rpar 3 4 303030.303030303
.ends HTG5_870575374003_330uF
*******
.subckt HTG5_870575574003_220uF 1 2
Rser 1 3 0.0065
Lser 2 4 0.0000000026
C1 3 4 0.00022
Rpar 3 4 454545.454545455
.ends HTG5_870575574003_220uF
*******
.subckt HTG5_870575774003_47uF 1 2
Rser 1 3 0.0071
Lser 2 4 0.0000000023
C1 3 4 0.000047
Rpar 3 4 2127659.57446809
.ends HTG5_870575774003_47uF
*******
.subckt HTG5_870575375004_470uF 1 2
Rser 1 3 0.0067
Lser 2 4 0.0000000034
C1 3 4 0.00047
Rpar 3 4 212765.957446809
.ends HTG5_870575375004_470uF
*******
.subckt HTG5_870575875004_33uF 1 2
Rser 1 3 0.0049
Lser 2 4 0.0000000035
C1 3 4 0.000033
Rpar 3 4 3028846.15384615
.ends HTG5_870575875004_33uF
*******
.subckt HTG5_870575875005_47uF 1 2
Rser 1 3 0.0055
Lser 2 4 0.0000000032
C1 3 4 0.000047
Rpar 3 4 2128378.37837838
.ends HTG5_870575875005_47uF
*******
.subckt HTG5_870575575005_330uF 1 2
Rser 1 3 0.006
Lser 2 4 0.0000000025
C1 3 4 0.00033
Rpar 3 4 303030.303030303
.ends HTG5_870575575005_330uF
*******
.subckt HTG5_870575875006_56uF 1 2
Rser 1 3 0.0045
Lser 2 4 0.0000000031
C1 3 4 0.000056
Rpar 3 4 1784702.54957507
.ends HTG5_870575875006_56uF
*******
.subckt HTG5_870575975005_15uF 1 2
Rser 1 3 0.0057
Lser 2 4 0.0000000033
C1 3 4 0.000015
Rpar 3 4 6666666.66666667
.ends HTG5_870575975005_15uF
*******
